US05700819
To a solution of zinc chloride (26 mg, 0.19 mmol) in chlorobenzene (3 ml) was added a solution of 2-amino-3,4,6-trifluorothiophenol hydrochloride (269 mg, 1.2 mmol) in chlorobenzene (1 ml) and a solution of ethyl 3-(2-cyanoethyl)benzoate (254 mg, 1.2 mmol) in chlorobenzene (1 ml) and the mixture was heated to reflux for 40 hours. The reaction mixture was evaporated followed by addition of methylene chloride. The resulting mixture was washed with water, dried and evaporated to yield a residue, which was purified on a silica gel column to give ethyl 3-[2-(4,5,7-trifluorobenzothiazol-2-yl)ethyl]benzoate (133 mg, 30%) as an oil.

reactant | 2-amino-3,4,6-trifluorothiophenol hydrochloride | 1.2 mmol, 269 mg | Cl.NC1=C(C(=CC(=C1F)F)F)S
reactant | ethyl 3-(2-cyanoethyl)benzoate | 1.2 mmol, 254 mg | C(#N)CCC=1C=C(C(=O)OCC)C=CC1 | C12H13NO2
solvent | chlorobenzene | 3 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 1 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 1 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | zinc chloride | 0.19 mmol, 26 mg | [Cl-].[Zn+2].[Cl-]
product | ethyl 3-[2-(4,5,7-trifluorobenzothiazol-2-yl)ethyl]benzoate | 133 mg, 30% | FC1=C(C=C(C2=C1N=C(S2)CCC=2C=C(C(=O)OCC)C=CC2)F)F | C18H14F3NO2S
